US05629406
1-t-Butoxycarbonyl-4-oxo-N-t-butyl-L-prolinamide
A solution of 1.21 g (15.51 mmol) of dimethyl sulfoxide in 5 ml of methylene chloride was added to a solution of 0.98 g (7.72 mmol) of oxalyl chloride in 20 ml of methylene chloride at -50° to -60° C. After 5 minutes, a solution of 2.0 g (7.00 mmol) of (4R)-1-t-butoxycarbonyl-4-hydroxy-N-t-butyl-L-prolinamide (prepared as described in Preparation 5) in 40 ml of methylene chloride was added to the resulting mixture. The mixture was stirred for 15 minutes, after which 3.5 g (35.00 mmol) of triethylamine were added, and the mixture was stirred for a further 5 minutes. The temperature of the reaction mixture was then allowed to rise to room temperature, and the mixture was stirred for a further 1 hour. At the end of this time, the reaction mixture was poured into ice-water and extracted with methylene chloride. The organic extract was washed with a 10% w/v aqueous solution of sodium hydrogencarbonate and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and the resulting residue was recrystallized from a mixture of methylene chloride and diethyl ether, to give 1.47 g of the title compound as colorless crystals, melting at 147°-149° C.

reactant | dimethyl sulfoxide | 15.51 mmol, 1.21 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 7.72 mmol, 0.98 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (4R)-1-t-butoxycarbonyl-4-hydroxy-N-t-butyl-L-prolinamide | 7.00 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NC(C)(C)C)C[C@H](C1)O | C14H26N2O4
reactant | triethylamine | 35.00 mmol, 3.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 1-t-Butoxycarbonyl-4-oxo-N-t-butyl-L-prolinamide | 1.47 g | C(C)(C)(C)OC(=O)N1[C@H](C(=O)NC(C)(C)C)CC(C1)=O | C14H24N2O4
